US09216980B2
Step 2: {3-[4-(4-Methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-yl}-methanol
A suspension of 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-methanol (40.7 mg, 0.146 mmol), 4-(4-methylpiperazin-1-yl)phenylboronic acid pinacol ester (46.4 mg, 0.154 mmol) and bis(triphenylphosphine)palladium(II) dichloride (5.1 mg, 7.3 μmol) in acetonitrile (0.73 mL) and 2N aqueous sodium carbonate solution (0.73 mL) was heated at 150° C. under microwave irradiation for 20 minutes. The cooled reaction mixture was diluted with THF, the solid removed by filtration, and washed with THF and DCM. The combined filtrate was concentrated in vacuo and the resultant residue purified by flash chromatography (silica, 1-15% (2N ammonia methanol) in DCM) to afford the title compound. 1H NMR (DMSO-D6, 400 MHz): 12.46 (s, 1H), 9.76 (s, 1H), 9.07 (d, J=1.8 Hz, 1H), 8.97 (d, J=1.8 Hz, 1H), 8.50 (s, 1H), 7.76 (d, J=8.7 Hz, 2H), 7.17 (d, J=8.7 Hz, 2H), 4.13 (s, 2H), 3.38-3.30 (m, 8H), 2.89 (s, 3H). LCMS (Method D): RT=5.24 min, M+H+=374.

reactant | 3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-methanol | 0.146 mmol, 40.7 mg | BrC1=CC2=C(NC3=C2C=C(N=C3)CO)N=C1 | C11H8BrN3O
reactant | 4-(4-methylpiperazin-1-yl)phenylboronic acid pinacol ester | 0.154 mmol, 46.4 mg | CN1CCN(CC1)C1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C17H27BN2O2
solvent | acetonitrile | 0.73 mL | C(C)#N | C2H3N
solvent | sodium carbonate | 2N, 0.73 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 7.3 μmol, 5.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | {3-[4-(4-Methylpiperazin-1-yl)-phenyl]-9H-dipyrido[2,3-b;4′,3′-d]pyrrol-6-yl}-methanol | CN1CCN(CC1)C1=CC=C(C=C1)C1=CC2=C(NC3=C2C=C(N=C3)CO)N=C1 | C22H23N5O
